US07691902B2
Methyl 5-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-4′-(dimethylcarbamoyl)biphenyl-2-carboxylate (84 mg, 0.20 mmol) was dissolved in DMF (2.0 mL) with 1M K2CO3 (1.0 mL) and irradiated in the microwave at 150° C. for 10 minutes. Purification by reverse phase HPLC yielded 5-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-4′-(dimethylcarbamoyl)-biphenyl-2-carboxylic acid (7.3 mg, 8%). ESI-MS m/z calc. 472.5, found 473.3 (M+1)+; retention time 2.79 minutes.

reactant | Methyl 5-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-4′-(dimethylcarbamoyl)biphenyl-2-carboxylate | 0.20 mmol, 84 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=CC=C(C(=C2)C2=CC=C(C=C2)C(N(C)C)=O)C(=O)OC | C28H26N2O6
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | K2CO3 | 1M, 1.0 mL | C(=O)([O-])[O-].[K+].[K+]
product | 5-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-4′-(dimethylcarbamoyl)-biphenyl-2-carboxylic acid | 7.3 mg, 8% | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=CC=C(C(=C2)C2=CC=C(C=C2)C(N(C)C)=O)C(=O)O | C27H24N2O6
